US07612055B2
xxx) (S)-3-(3-Bromo-5-methyl-benzylsulfanyl)-2-methyl-propionic acid
A solution of 5.55 g (21 mmol) 1-bromo-3-bromomethyl-5-methyl-benzene and 2.90 ml (21 mmol) (S)-3-acetylsulfanyl-2-methyl-propionic acid in 32 ml methanol is cooled in an ice bath and 4N aqueous sodium hydroxide (15.8 ml, 63 mmol) are added. The reaction mixture is stirred at rt for 3 hrs. EtOAc is added to the mixture and the organic layer is washed with water and brine and evaporated. Filtration over silica gel (flashmaster, hexane to hexane/EtOAc 4/6) gives the title compound.

reactant | 1-bromo-3-bromomethyl-5-methyl-benzene | 21 mmol, 5.55 g | BrC1=CC(=CC(=C1)C)CBr | C8H8Br2
reactant | (S)-3-acetylsulfanyl-2-methyl-propionic acid | 21 mmol, 2.90 ml | C(C)(=O)SC[C@H](C(=O)O)C | C6H10O3S
reactant | sodium hydroxide | 63 mmol, 4N, 15.8 ml | [OH-].[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | methanol | 32 ml | CO | CH4O
product | (S)-3-(3-Bromo-5-methyl-benzylsulfanyl)-2-methyl-propionic acid | BrC=1C=C(CSC[C@H](C(=O)O)C)C=C(C1)C | C12H15BrO2S
